US07074798B2
g) 4-[3-Ethoxycarbonylmethyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1-(2,2-Dimethylpropionyloxymethyl)-3-ethoxycarbonylmethyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (89 mg) was dissolved in tetrahydrofuran (1 ml) and methanol (2 ml), sodium hydride (7 mg) was added to the solution, and the mixture was stirred at room temperature for 3.5 hours. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and filtered, followed by concentration of the filtrate under reduced pressure. The residue was purified by silica gel column chromatography to give 60 mg of the title compound from the elution fraction of hexane-ethyl acetate (1:2).

reactant | 4-[1-(2,2-Dimethylpropionyloxymethyl)-3-ethoxycarbonylmethyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 89 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=C)=O)COC(C(C)(C)C)=O)=O)CC(=O)OCC | C32H42N6O8
reactant | sodium hydride | 7 mg | [H-].[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-Ethoxycarbonylmethyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1C1=C(C=CC=C1)C=C)=O)=O)CC(=O)OCC | C26H32N6O6
